US09227956B2
tert-butyl (3R)-3-{(3-chloropyridin-2-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate
To a solution of Preparation 10 (R)-tert-butyl 3-(4-bromo-N-(3-chloropyridin-2-yl)benzamido)piperidine-1-carboxylate (40.0 g, 80.8 mmol) in 1,4-dioxane (250 mL) were added bis(pinacolato)diboron (41.1 g, 162 mmol), KOAc (23.8 g, 244 mmol) and PdCl2(dppf) (5.9 g, 8.1 mmol). The resulting mixture was purged with N2 and stirred at 80-90° C. for 10 h. The reaction was cooled and filtered. The organic solution was concentrated in vacuo. The residue was purified by silica gel column chromatography, eluting with a gradient of 2-25% EtOAc/petroleum ether to give the title compound as a yellow gum. The yellow gum was triturated with petroleum ether to afford the title compound as a white solid (30 g, 69%).

reactant | (R)-tert-butyl 3-(4-bromo-N-(3-chloropyridin-2-yl)benzamido)piperidine-1-carboxylate | 80.8 mmol, 40.0 g | BrC1=CC=C(C(=O)N(C2=NC=CC=C2Cl)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C22H25BrClN3O3
reactant | bis(pinacolato)diboron | 162 mmol, 41.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 244 mmol, 23.8 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 8.1 mmol, 5.9 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl (3R)-3-{(3-chloropyridin-2-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate | ClC=1C(=NC=CC1)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C28H37BClN3O5
